US05155264
In 200 cc of toluene was dissolved 47.25 g (0.5 mole) of monochloroacetic acid and 50.5 g (0.5 mole) of triethylamine was added to the solution. When the mixture was heated at about 100° C., a white precipitate was immediately formed. The precipitate was recovered by filtration and washed with ethanol. Carboxymethyl triethylammonium chloride was obtained substantially in the theoretical amount. The obtained chloride was dissolved in 150 cc of ethanol and the solution was maintained at 60° C., and when the above-mentioned ethanol solution of the aminomethanol derivative was added to the solution and the mixture was stirred, a turbid slurry was immediately formed. The reaction was completed within about 2 hours, and the reaction mixture was filtered and the recovered precipitate was rinsed two times with 20 cc of warm methanol and was washed and dried.

reactant | monochloroacetic acid | 0.5 mole, 47.25 g | ClCC(=O)O | C2H3ClO2
reactant | triethylamine | 0.5 mole, 50.5 g | C(C)N(CC)CC | C6H15N
solvent | toluene | 200 cc | C1(=CC=CC=C1)C | C7H8
product | Carboxymethyl triethylammonium chloride | [Cl-].C(=O)(O)C[N+](CC)(CC)CC | InChI=1S/C8H17NO2.ClH/c1-4-9(5-2,6-3)7-8(10)11;/h4-7H2,1-3H3;1H
